US07595345B2
G. 4-[1-Ethyl-1-(4-ethynyl-3-methyl-phenyl)-propyl]-2-methyl-benzoic acid methyl ester
To an ambient temperature suspension of 4-[1-Ethyl-1-(3-methyl-4-trimethylsilanylethynyl-phenyl)-propyl]-2-methyl-benzoic acid methyl ester (6.8 g, 16.72 mmol) in acetonitrile/water (180/30 ml) is added cesium fluoride (25.4 g, 167.2 mmol) and stirred for 3d. The reaction mixture is concentrated and partitioned between EtOAc (500 ml) and 1N HCl (200 ml). The aqueous phase is extracted with a second portion of EtOAc (200 ml) and the combined organic phases are washed with brine (200 ml), dried (MgSO4), concentrated and chromatographed (330 g SiO2, 1% EtOAc/Hexanes) to yield the title compound (5.52 g, 99%).

reactant | 4-[1-Ethyl-1-(3-methyl-4-trimethylsilanylethynyl-phenyl)-propyl]-2-methyl-benzoic acid methyl ester | 16.72 mmol, 6.8 g | COC(C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)C#C[Si](C)(C)C)C)CC)C)=O | C26H34O2Si
reactant | cesium fluoride | 167.2 mmol, 25.4 g | [F-].[Cs+]
solvent | acetonitrile water | 30 ml | C(C)#N.O
product | 4-[1-Ethyl-1-(4-ethynyl-3-methyl-phenyl)-propyl]-2-methyl-benzoic acid methyl ester | 5.52 g, 99% | COC(C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)C#C)C)CC)C)=O | C23H26O2
